US05637579
Benzhydryl (1E,3E)-(2S,3S,5R)-3-(4-formyl-buta-1,3-dienyl)-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate was prepared in analogy to Example 9 from 3.81 g (10.0 mmol) of benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate and 4.55 g (15.0 mmol) of formylmethylene-triphenylphosphorane. Chromatography was carried out over silica gel (0.040-0.063 mm particle size) with methylene chloride:ethyl acetate (98:2) as the eluent.

reactant | benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate | 10.0 mmol, 3.81 g | C(=O)[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H19NO4S
reactant | formylmethylene-triphenylphosphorane | 15.0 mmol, 4.55 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | Benzhydryl (1E,3E)-(2S,3S,5R)-3-(4-formyl-buta-1,3-dienyl)-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | C(=O)/C=C/C=C/[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H23NO4S
